US05274116
2-(2-Acetyl-1H-pyrrol-1-yl)-1H-isoindole-1,3(2H)dione
To a stirred solution of acetyl chloride (6.77 ml) in DCM (400 ml) was added tin (IV) chloride (11.14 ml) at -5° C., under nitrogen. 2-(1H-pyrrol-1-yl)-1H-isoindole-1,3(2H)dione (20.0 g) was then added portion-wise, keeping the temperature below 0° C. The reaction mixture was then stirred at 0° C. for 0.5 hour, at which time it was poured into ice water. The layers were separated and the aqueous phase was extracted with DCM. The combined organics were washed twice with 5% HCl (aq.) and dried (MgSO4). Filtration and concentration gave the crude product. Purification via flash column chromatography (silica gel, DCM) afforded 9.62 g of the product as a solid, m.p. 204°-205° C.

reactant | acetyl chloride | 6.77 ml | C(C)(=O)Cl | C2H3ClO
reactant | tin (IV) chloride | 11.14 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-(1H-pyrrol-1-yl)-1H-isoindole-1,3(2H)dione | 20.0 g | N1(C=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C12H8N2O2
solvent | DCM | 400 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-Acetyl-1H-pyrrol-1-yl)-1H-isoindole-1,3(2H)dione | 9.62 g | C(C)(=O)C=1N(C=CC1)N1C(C2=CC=CC=C2C1=O)=O | C14H10N2O3
